US04348333
A mixture of 2.37 g (5 mmol) of 2,3',6-tris(benzyloxy)-4-hydroxy-4'-methoxydihydrochalcone, 1.38 g (10 mmol) of K2CO3, and 70.1 g (50 mmol) of 1,3-dibromopropane in 75 mL of DMF was reacted for 48 hours, after which standard workup yielded 2.91 g (84%) of 2,3',6-tris(benzyloxy)-4-(3-bromopropoxy)-4'-methoxydihydrochalcone as a white solid. The resulting intermediate bromide (2.91 g, 4.18 mmol) was dissolved in 50 mL of P(OCH3)3 and refluxed for 39 hours. After all solvent was removed in vacuo, standard workup, followed by column chromatography over 200 g of silica gel (CHCl3 --CH3OH), yielded 1.93 g (64%) of 2.3',6-tris(benzyloxy)-4-(dimethyl-3-phosphopropoxy)-4'-methoxydihydrochalcone as an oil, which crystallized on standing. Crystallization from hexane-EtOAc yielded colorless clusters: mp 92°-95.5° C.; IR (film) 5.88 (C=O) μm; UV (MeOH)λmax 278 nm (ε 7600); NMR (CDCl3)δ 2.90 (m, 4H, ArCOCH2CH2Ar'), 3.64 [s, 6H, PO(OCH3)2 ], 3.77 (s, 3H, Ar'OCH3), 3.94 (t, 2H, J=6 Hz, ArOCH2), 5.03 (s, 6H, PhCH2O), 6.17 (s, 2H, ArH), 7.37 (s, 15H, PhH). Anal (C42H45O9P) C, H.

reactant | 2,3',6-tris(benzyloxy)-4-hydroxy-4'-methoxydihydrochalcone | 5 mmol, 2.37 g | C(C1=CC=CC=C1)OC1C(C(=CC(=C1)O)OCC1=CC=CC=C1)C=CC(=O)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C37H34O6
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | 50 mmol, 70.1 g | BrCCCBr | C3H6Br2
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 2,3',6-tris(benzyloxy)-4-(3-bromopropoxy)-4'-methoxydihydrochalcone | 2.91 g, 84% | C(C1=CC=CC=C1)OC1C(C(=CC(=C1)OCCCBr)OCC1=CC=CC=C1)C=CC(=O)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C40H39BrO6
